US08735593B2
2-(2-chlorophenyl)-4-(trifluoromethyl)pyridine
A mixture of 2-chloro-4-(trifluoromethyl)pyridine (4 g, 22.0 mmol), 2-chlorophenylboronic acid (5.04 g, 24.2 mmol), Ba(OH)2 (12.5 g, 66.1 mmol) and Pd(PPh2)2Cl2 (464 mg, 0.66 mmol) in DME (140 mL)/water (35 mL) was heated at 110° C. for 1 h. The solids were filtered off and the mother liquor were concentrated to around 80 mL and extracted with EtOAc. The organic layer was washed with brine, then water, dried (MgSO4), filtered and concentrated. Purification by column chromatography (1/1 Petroleum ether/EtOAc) gave the Suzuki adduct (5.05 g, 89%) as a colourless oil.

reactant | 2-chloro-4-(trifluoromethyl)pyridine | 22.0 mmol, 4 g | ClC1=NC=CC(=C1)C(F)(F)F | C6H3ClF3N
reactant | 2-chlorophenylboronic acid | 24.2 mmol, 5.04 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | water | 35 mL | O | H2O
solvent | DME | 140 mL | COCCOC | C4H10O2
product | 2-(2-chlorophenyl)-4-(trifluoromethyl)pyridine | 5.05 g, 89% | ClC1=C(C=CC=C1)C1=NC=CC(=C1)C(F)(F)F | C12H7ClF3N
